US08304443B2
6-(Benzyloxy)-3-(1-methoxyethyl)-1-(tetrahydro-2H-pyran-2-yl)-indazole
1-(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl) ethanol (10 mg) which can be prepared according to the method described in Reference example 24, etc. was dissolved in dehydrated DMF (0.12 mL; manufactured by Kanto Chemical Co., Inc.), added with sodium hydride-comprising 400 oil (2.0 mg; manufactured by Kanto Chemical Co., Inc.), followed by stirring at room temperature for 5 minutes. To the reaction solution, methyl iodide (4.87 μL; manufactured by Tokyo Chemical Industry, Co., Ltd.) was added and the mixture was stirred overnight at room temperature. Water was added to the reaction solution, which was then extracted twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-F”; n-hexane:ethyl acetate=5:1) to obtain the title compound (10.2 mg).

reactant | 1-(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl) ethanol | 10 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(C)O | C21H24N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 4.87 μL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 0.12 mL | CN(C)C=O | C3H7NO
product | 6-(Benzyloxy)-3-(1-methoxyethyl)-1-(tetrahydro-2H-pyran-2-yl)-indazole | 10.2 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(C)OC | C22H26N2O3
